US03974157
Preparation of [2-(1-Hydroxy-2-phenylcyclohexyl)-propyl]-trimethylammonium iodide.
A solution of 3.5 grams of 1-(2-dimethylamino-1-methylethyl)-2-phenyl-cyclohexanol in 250 ml ether and 10 ml tetrahydrofuran is treated with 6 ml methyl iodide and allowed to stand for 7 days. The crystalline product is filtered and washed with ether and recrystallized from water giving 2.1 grams melting at 155°-159°C.

reactant | 1-(2-dimethylamino-1-methylethyl)-2-phenyl-cyclohexanol | 3.5 grams | CN(CC(C)C1(C(CCCC1)C1=CC=CC=C1)O)C | C17H27NO
reactant | methyl iodide | 6 ml | CI | CH3I
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [2-(1-Hydroxy-2-phenylcyclohexyl)-propyl]-trimethylammonium iodide | [I-].OC1(C(CCCC1)C1=CC=CC=C1)C(C[N+](C)(C)C)C | InChI=1S/C18H30NO.HI/c1-15(14-19(2,3)4)18(20)13-9-8-12-17(18)16-10-6-5-7-11-16;/h5-7,10-11,15,17,20H,8-9,12-14H2,1-4H3;1H/q+1;/p-1
